US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-4-(4-nitrobenzyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by methods F and I, alkylating with 4-nitrobenzyl chloride, in 89% yield, mp 124°-127° C.; MS (CI) MH+ 329; IR (KBr) 3498, 3076, 2930, 2863, 1656, 1605, 1500, 1466, 1302, 1279, 1184, 1126, 982, 613 cm-1 ; 1H NMR (CDCl3) δ8.20 (dd, 2H, J=2.0, 6.9 Hz), 7.40 (d, 2H, J=8.8 Hz), 7.03 (m, 2H), 6.93 (m, 1H), 6.75 (d, 1H, J=7.6 Hz), 5.25 (s, 2H), 4.88 (dd, 1H, J=5.4, 7.6 Hz), 3.93 (m, 2H), 2.38-2.17 (m, 2H), 2.10 (m, 1H). Anal. Calc'd for C17H16N2O5 : C 62.19, H 4.91, N 8.54. Found: C 62.05, H 4.87, N 8.39.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | KBr | [K+].[Br-]
product | 3,4-Dihydro-2-(2-hydroxyethyl)-4-(4-nitrobenzyl)-3-oxo-2H-1,4-benzoxazine | 89% yield | OCCC1OC2=C(N(C1=O)CC1=CC=C(C=C1)[N+](=O)[O-])C=CC=C2 | C17H16N2O5
